US04535054
tetraethylene glycol dimethyl ether.
In using the dioxane solvent of "H", it is preferred to develop first with dioxane alone, followed by a mixture of dioxane and alkanol and finished with alkanol alone (for example, dioxane/dioxane:methanol mixture/methanol).

reactant | dioxane dioxane | O1CCOCC1.O1CCOCC1 | 2C4H8O2
reactant | methanol | CO | CH4O
reactant | dioxane | O1CCOCC1 | C4H8O2
product | tetraethylene glycol dimethyl ether | COCCOCCOCCOCCOC | C10H22O5
